US07378435B2
3-[3-(4-Fluoro-phenyl)-5-methyl-isoxazole-4-carbonyl]-1H-indole-6-carboxylic acid cyclopropylmethyl-amide
A solution of 62 mg (0.17 mmol) 3-[3-(4-fluoro-phenyl)-5-methyl-isoxazole-4-carbonyl]-1H-indole-6-carboxylic acid, 41 mg (0.21 mmol) N-(3-dimethylaminopropyl)-N′-ethyl carbodiimide, 23 mg (0.17 mmol) 1-hydroxy benzotriazole, 59 uL (0.43 mmol) Et3N and 0.26 mmol cyclopropylamine in DMF (1 mL) was reacted at room temperature overnight. After evaporation the mixture was subjected to preparative HPLC purification on reversed phase eluting with an acetonitrile/water (0.05% NEt3) gradient to afford 51 mg of the title compound in 72% yield as a white solid. (m/e): 418.1 (MH+; 100%).

reactant | 3-[3-(4-fluoro-phenyl)-5-methyl-isoxazole-4-carbonyl]-1H-indole-6-carboxylic acid | 0.17 mmol, 62 mg | FC1=CC=C(C=C1)C1=NOC(=C1C(=O)C1=CNC2=CC(=CC=C12)C(=O)O)C | C20H13FN2O4
reactant | N-(3-dimethylaminopropyl)-N′-ethyl carbodiimide | 0.21 mmol, 41 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | 1-hydroxy benzotriazole | 0.17 mmol, 23 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | Et3N | 0.43 mmol, 59 uL | CCN(CC)CC | C6H15N
reactant | cyclopropylamine | 0.26 mmol | C1(CC1)N | C3H7N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 3-[3-(4-Fluoro-phenyl)-5-methyl-isoxazole-4-carbonyl]-1H-indole-6-carboxylic acid cyclopropylmethyl-amide | 51 mg, 72% yield | C1(CC1)CNC(=O)C1=CC=C2C(=CNC2=C1)C(=O)C=1C(=NOC1C)C1=CC=C(C=C1)F | C24H20FN3O3
